US05547954
A stirred solution of 10.0 grams (0.048 mole) of 6-chloro-7-cyano-2,3-dihydro-2,2-dimethylbenzofuran in 200 mL of 2-methyl-2-propanol is warmed to reflux, and 9.5 grams (0.17 mole) of 85% potassium hydroxide is added in one portion. Upon completion of addition, the reaction mixture is heated at reflux for about 75 minutes. The reaction mixture is then cooled and poured into 400 mL of water that is cooled in an ice bath. The resultant solid is collected by filtration and dried under vacuum, yielding 8.2 grams of 7-aminocarbonyl-6-chloro-2,3-dihydro-2,2-dimethylbenzofuran. The NMR spectrum is consistent with the proposed structure.

reactant | 6-chloro-7-cyano-2,3-dihydro-2,2-dimethylbenzofuran | 0.048 mole, 10.0 grams | ClC1=C(C2=C(CC(O2)(C)C)C=C1)C#N | C11H10ClNO
reactant | potassium hydroxide | 0.17 mole, 9.5 grams | [OH-].[K+]
reactant | water | 400 mL | O | H2O
solvent | 2-methyl-2-propanol | 200 mL | CC(C)(C)O | C4H10O
product | 7-aminocarbonyl-6-chloro-2,3-dihydro-2,2-dimethylbenzofuran | 8.2 grams | NC(=O)C1=C(C=CC=2CC(OC21)(C)C)Cl | C11H12ClNO2
